US07396944B2
To a suspension of 10.0 mg (0.0086 mmol) tetrakis(triphenylphosphine)-palladium(0) in 2 ml dry dimethoxyethane, 100 mg (0.272 mmol) 5-[1-(3-Bromo-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester were added and stirred for 10 min at room temperature under nitrogen atmosphere. 52.5 mg (0.410 mmol) thiophene-2-boronic acid in 0.5 ml ethanol and 285 μl (0.570 mmol) of a 2 M aqueous solution of Na2CO3 were added and the mixture was heated in the microwave oven (Emrys Optimizer) at 100° C. for 25 min. After cooling to room temperature, the reaction mixture was filtered and the solid was washed with ethanol. The solvent of the combined filtrates was evaporated. The residue was dissolved in ethyl acetate and washed with brine. The organic phase was dried over magnesium sulfate, the solvent was evaporated and the residue was subjected to silica gel chromatography (ethyl acetate/n-heptane 1:2) to yield 81 mg (0.218 mmol) 5-[1-(3-thiophen-2-yl-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester.

reactant | 5-[1-(3-Bromo-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester | 0.272 mmol, 100 mg | COC(=O)C=1SC(=CC1)C(NC(C)C1=CC(=CC=C1)Br)=O | C15H14BrNO3S
reactant | thiophene-2-boronic acid | 0.410 mmol, 52.5 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 2 ml | C(OC)COC | C4H10O2
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.0086 mmol, 10.0 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-[1-(3-thiophen-2-yl-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester | 0.218 mmol, 81 mg | COC(=O)C=1SC(=CC1)C(NC(C)C1=CC(=CC=C1)C=1SC=CC1)=O | C19H17NO3S2
